US07595312B2
11e (S)-2-(4-amino-3,5-bis-trifluoromethyl-benzyl)-4-oxo-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butanoic acid
A solution of 0.72 g (16.75 mmol) lithium hydroxide hydrate in 30 mL water was added to a solution of 6.7 g (11.16 mmol) methyl (S)-2-(4-amino-3,5-bis-trifluoromethyl-benzyl)-4-oxo-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butanoate in 50 mL THF at RT and the reaction mixture was stirred for 5 h at RT. The THF was eliminated i. vac., the aqueous solution cooled to 10° C. and adjusted to pH 1 with conc. HCl, during which time the product was precipitated. This was suction filtered and dried at 65° C. The dried substance was combined with 300 mL diisopropylether, stirred overnight, suction filtered, washed with diisopropylether and dried.

reactant | lithium hydroxide hydrate | 16.75 mmol, 0.72 g | O.[OH-].[Li+]
reactant | methyl (S)-2-(4-amino-3,5-bis-trifluoromethyl-benzyl)-4-oxo-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butanoate | 11.16 mmol, 6.7 g | NC1=C(C=C(C[C@H](C(=O)OC)CC(N2CCC(CC2)N2C(NC3=C(CC2)C=CC=C3)=O)=O)C=C1C(F)(F)F)C(F)(F)F | C28H30F6N4O4
reactant | HCl | Cl | ClH
solvent | water | 30 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (S)-2-(4-amino-3,5-bis-trifluoromethyl-benzyl)-4-oxo-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butanoic acid | NC1=C(C=C(C[C@H](C(=O)O)CC(N2CCC(CC2)N2C(NC3=C(CC2)C=CC=C3)=O)=O)C=C1C(F)(F)F)C(F)(F)F | C27H28F6N4O4
